US07968587B2
Step 1: (±)-(7-Cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid tert-butyl ester
Equip a 12 L 3-necked round bottom flask with overhead agitation, thermocouple, addition funnel, nitrogen inlet, and cooling bath. Charge the flask with (±)-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile (500 g, 1.53 moles) and THF (5 L). Stir the resulting slurry at ambient temperature. Add hydrazine monohydrate (185.6 mL, 3.82 moles) in a slow stream from an addition funnel over 10 minutes. Stir the resulting mixture at ambient temperature overnight (about 18 h). Add cool water to the bath and charge the addition funnel with di-t-butyl dicarbonate (875.1 g, 4.01 moles; previously melted to a liquid). Add to the reaction mixture over 2 hours, keeping the pot temperature below 30° C. After 15 min, analyze by HPLC to find complete consumption of the intermediate amine Filter the reaction mixture onto a polypropylene pad in a stainless steel, table-top filter, and wash the resulting filter cake with ethyl acetate (2×1 L). Concentrate the filtrate in vacuo to remove most of the THF. Purify the resulting mixture (about 1 L) over a plug of silica gel (4 Kg Kieselgel-60), eluting with ethyl acetate. Concentrate the recovered eluent in vacuo to a dark oil. Add heptane (2 L) and ethyl acetate (350 mL) and spin the contents on a rotary evaporator at ambient temperature for 2 h. Add ice to the bath and spin the resulting slurry at 5° C. for an additional 2 h. Filter the solids, rinse with 90/10 heptane/ethyl acetate (2×500 mL) and vacuum dry at 35° C. Obtain the titled compound as a light tan solid in 91.6% yield.

reactant | (±)-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile | 1.53 moles, 500 g | O=C1N(C(C2=CC=CC=C12)=O)C1CC2=C(NC=3C=CC(=CC23)C#N)C1 | C20H13N3O2
reactant | THF | 5 L | C1CCOC1 | C4H8O
reactant | hydrazine monohydrate | 3.82 moles, 185.6 mL | O.NN
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | O | H2O
product | (±)-(7-Cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid tert-butyl ester | 91.6% yield | C(C)(C)(C)OC(NC1CC2=C(NC=3C=CC(=CC23)C#N)C1)=O | C17H19N3O2
